US04828754
2-Chloro-4-hydroxybenzoic acid (17.2 g: 100 mmols), 10.5 g (120 mmols) of (S)-2-methylbutanol and 0.17 g (1 mmol) of p-toluenesulfonic acid were refluxed in 100 ml of toluene on heating. Azeotropic water was removed with a Dean Stark trap. After water was no longer distilled off, the residue was left to cool up to room temperature. The resulting product was washed with a sodium bicarbonate aqueous solution until the aqueous phase became alkaline. The product was further washed with water and then with saturated sodium chloride aqueous solution, and dried with anhydrous sodium sulfate. Excess toluene and (S)-2-methylbutanol were mostly distilled off under reduced pressure and the residue was recrystallized from n-hexane to obtain 23.8 g of (S)-2-methylbutyl 2-chloro-4-hydroxybenzoate as a white crystal.

reactant | 2-Chloro-4-hydroxybenzoic acid | 100 mmols, 17.2 g | ClC1=C(C(=O)O)C=CC(=C1)O | C7H5ClO3
reactant | (S)-2-methylbutanol | 120 mmols, 10.5 g | C[C@H](CO)CC | C5H12O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 1 mmol, 0.17 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (S)-2-methylbutyl 2-chloro-4-hydroxybenzoate | 23.8 g | ClC1=C(C(=O)OC[C@H](CC)C)C=CC(=C1)O | C12H15ClO3
